US08227570B2
Under cooling on ice, sodium hydride (3.19 g, 133 mmol) was added to a solution of Boc-Ser (12.3 g, 53.9 mmol) in DMF (300 ml) and stirred at room temperature for 1.5 hours. Octane iodide (11.0 ml, 60.9 mmol) was added thereto and stirred at room temperature for 16 hours. After water (40 ml) was added dropwise to the reaction solution under cooling on ice, the solvent was evaporated under vacuum. The resulting residues were purified by applying them to silica gel column chromatography (gel; Art9385, Merck Co., Ltd, eluent; dichloromethane:methanol:acetic acid=120:10:1), to give 6.88 g Boc-Ser (C8H17) (yield, 36.2%) as pale yellow oily matter. Trifluoroacetic acid (120 ml) was added to this product, Boc-Ser (C8H17) (6.88 g, 21.7 mmol), under cooling on ice and stirred for 0.5 hour at room temperature. After the trifluoroacetic acid was evaporated, the resulting residues were dissolved in diethyl ether (120 ml), and 4N HCl-dioxane (22 ml) was added thereto and stirred for 1 hour under cooling on ice. The precipitated crystals were recovered by filtration to give 5.23 g H-Ser (C8H17) HCl (yield, 96.3%) as colorless crystals. After triethylamine (1.40 ml, 10 mmol) was added to a suspension (50 ml) of this product H-Ser (C8H17).HCl (2.54 g, 10.0 mmol) in 10% sodium hydrogen carbonate, a solution of Fmoc-Osu (5.00 g, 14.8 mmol) in 1,2-dimethoxyethane (20 ml) was added dropwise thereto over the period of 10 minutes and stirred at room temperature for 16 hours. The insolubles were filtered off, then dichloromethane was added to the filtrate, and the organic phase was separated and washed with 13% NaCl solution. The organic phase was dried over anhydrous sodium sulfate, and the solvent was evaporated. The resulting residues were purified by applying them to silica gel column chromatography (gel; BW-300, Fuji Silicia Co., Ltd, eluent; dichloromethane:methanol=93:7), to give 2.75 g Fmoc-Ser (C8H17) (yield: 62.6%) as colorless crystals. Rf=0.45 (CHCl3: MeOH=9:1, Silica gel 60F254, MERCK CO., Ltd). Fmoc-DSer(C8H17): Rf=0.45 (CHCl3: MeOH=9:1, Silica gel 60F254, MERCK Co., Ltd).

reactant | triethylamine | 10 mmol, 1.40 ml | C(C)N(CC)CC | C6H15N
reactant | H-Ser | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | HCl | 10.0 mmol, 2.54 g | Cl | ClH
reactant | Fmoc-Osu | 14.8 mmol, 5.00 g | C1CC(=O)N(C1=O)OC(=O)OCC2C3=CC=CC=C3C4=CC=CC=C24 | C19H15NO5
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
product | Fmoc-Ser | 2.75 g, yield: 62.6% | N([C@@H](CO)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C18H17NO5
